US06413938B1
E. 2-Bromo-5,6-dichloro-1-(3-acetyl-2,5-dideoxy-2-fluoro-beta-D -ribofuranosyl)-1H-benzimidazole
5,6-Dichloro-1-(3-acetyl-2,5-dideoxy-2-fluoro-beta-D-ribofuranosyl)-1H-benzimidazole (0.45 g, 1.3 mmoles) was boiled in toluene to remove water. Excess toluene was removed in vacuo. THF (Aldrich, Sure Seal, 20 mL) was added and the solution heated to reflux in an 85° C. oil bath. NBS (Aldrich, 0.46 g, 2.6 mmoles, 2 eq.) was added and the reaction refluxed 7 mins. A second portion (0.23 g, 1.3 mmoles, 1 eq.) was added and reflux continued 10 mins. The reaction was removed from the heat, diluted with chloroform (40 mL) and cooled to room temperature. The solution was washed with sat. sodium bicarbonate (2×), dried with MgSO4 and filtered. The solvents were removed in vacuo and the residue purified by chromatography on 75 g of silica gel eluted with ethyl acetate/hexane (1:4, v/v). The product containing fractions were combined and the solvents removed in vacuo. The yield was 0.42 g, 75%. MS (FAB+): m/z, 425; 1H NMR (DMSO-d6) δ7.99 (s,1H, Ar—H), 7.97 (s, 1H, Ar—H), 6.27 (d, 1H, H-1′, J=19 Hz), 5.69 (d, 1H, H-2′, J=53 Hz), 5.1 (m, 1H), 4.25 (m, 1H), 2.13 (s, 3H, acetyl), 1.45 (d, 3H, H-5′, J=6 Hz).

reactant | 5,6-Dichloro-1-(3-acetyl-2,5-dideoxy-2-fluoro-beta-D-ribofuranosyl)-1H-benzimidazole | 1.3 mmoles, 0.45 g | ClC1=CC2=C(N(C=N2)[C@H]2[C@@H]([C@](O)([C@H](O2)C)C(C)=O)F)C=C1Cl | C14H13Cl2FN2O3
reactant | NBS | 2.6 mmoles, 0.46 g, 2 eq. | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-Bromo-5,6-dichloro-1-(3-acetyl-2,5-dideoxy-2-fluoro-beta-D -ribofuranosyl)-1H-benzimidazole | BrC1=NC2=C(N1[C@H]1[C@@H]([C@](O)([C@H](O1)C)C(C)=O)F)C=C(C(=C2)Cl)Cl | C14H12BrCl2FN2O3
